US04409214
To a suspension of benzhydryl 7-[N-tert-butoxycarbonyl-2-(2-aminothiazol-4-yl)glycinamido]-3-vinyl-3-cephem-4-carboxylate (3.9 g) in methylene chloride (20 ml) were added trifluoroacetic acid (13.7 g) and anisole (3.8 g) under ice-cooling, and the mixture was stirred at ambient temperature for an hour. After evaporation of the reaction mixture, to the residue were added water (100 ml) and ethyl acetate, followed by adjusting to pH 7 with 2 N aqueous solution of sodium hydroxide. The precipitated solid was removed by filtration and the aqueous layer was separated out. Thereto was added ethyl acetate, followed by adjusting to pH 5 with 10% hydrochloric acid. After separating out the aqueous layer, the organic solvent was completely removed therefrom by evaporation, and then the resultant aqueous solution was adjusted to pH 4 with 10% hydrochloric acid under cooling, followed by subjecting to column chromatography on a nonionic adsorption resin "Diaion HP-20" (120 ml). After washing with water (270 ml), elution was carried out with 10% isopropyl alcohol and then 30% isopropyl alcohol, and the fractions containing the desired compound were collected and evaporated under reduced pressure to give a residue, which was lyophilized to obtain 7-[2-(2-aminothiazol-4-yl)glycinamido]-3-vinyl-3-cephem-4-carboxylic acid (0.8 g).

reactant | benzhydryl 7-[N-tert-butoxycarbonyl-2-(2-aminothiazol-4-yl)glycinamido]-3-vinyl-3-cephem-4-carboxylate | 3.9 g | C(C)(C)(C)OC(=O)N(C(C(N)C=1N=C(SC1)N)=O)C1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H33N5O6S2
reactant | trifluoroacetic acid | 13.7 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 3.8 g | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)glycinamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.8 g | NC=1SC=C(N1)C(N)C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C14H15N5O4S2
